US06642389B2
a] 4-[2-(2,6-Dimethyl-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole
1.1 g of 2,6-Dimethylphenol, 2.01 g of 2-(5-methyl-2-phenyl-oxazole-4yl)-ethanol 2.6 g of triphenylphosphin were dissolved in 30 ml THF and treated at 0° with 1.6 ml DEAD (Diethyl azodicarboxylate). The reaction mixture was kept overnight at RT. Water was added. Twofold extraction with AcOEt, washing with brine, drying over sodium sulfate, and evaporation of the solvents provided a crude product, which was purified by chromatography (SiO2; ether/cyclohexane) to yield 0.89 g of the title compound as a slightly yellow oil.

reactant | 2,6-Dimethylphenol | 1.1 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | 2-(5-methyl-2-phenyl-oxazole-4yl)-ethanol | 2.01 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCO | C12H13NO2
reactant | triphenylphosphin | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 1.6 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | 4-[2-(2,6-Dimethyl-phenoxy)-ethyl]-5-methyl-2-phenyl-oxazole | 0.89 g | CC1=C(OCCC=2N=C(OC2C)C2=CC=CC=C2)C(=CC=C1)C | C20H21NO2
